US06589970B2
Step 2: 2-[6-{[(2-Butyl-benzofuran-3-carbonyl)-amino]-methyl}-1-(4-chloro-phenyl)-naphthalen-2-yloxy]-3-phenyl-propionic acid.
1 N NaOH (300 μL, 0.30 mmol) was added under nitrogen to a solution of 2-[6-{[(2-butyl-benzofuran-3-carbonyl)-amino]-methyl}-1-(4-chloro-phenyl)-naphthalen-2-yloxy]-3-phenyl-propionic acid methyl ester (182 mg, 0.28 mmol), prepared in the previous step, in 30 mL of methanol plus 2.5 mL of water at room temperature. After the addition the reaction was stirred at room temperature overnight. If starting material remains additional 1 N NaOH is added until the reaction is complete. A total of 900 μL of 1 N NaOH was added. The reaction was acidified by the addition of 1.6 mL of 1 N HCl and then concentrated under reduced pressure. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (166 mg, 94%) as a white solid, mp 169-172° C.

reactant | NaOH | 0.30 mmol, 1 N, 300 μL | [OH-].[Na+]
reactant | 2-[6-{[(2-butyl-benzofuran-3-carbonyl)-amino]-methyl}-1-(4-chloro-phenyl)-naphthalen-2-yloxy]-3-phenyl-propionic acid methyl ester | 0.28 mmol, 182 mg | COC(C(CC1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC)C2=CC=C(C=C2)Cl)=O | C40H36ClNO5
reactant | water | 2.5 mL | O | H2O
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | NaOH | 1 N, 900 μL | [OH-].[Na+]
reactant | HCl | 1 N, 1.6 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 2-[6-{[(2-Butyl-benzofuran-3-carbonyl)-amino]-methyl}-1-(4-chloro-phenyl)-naphthalen-2-yloxy]-3-phenyl-propionic acid | 166 mg, 94% | C(CCC)C=1OC2=C(C1C(=O)NCC=1C=C3C=CC(=C(C3=CC1)C1=CC=C(C=C1)Cl)OC(C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C39H34ClNO5
